US03957763
Following the procedure of Example 9, linalool and phosphorus tribromide are reacted to form 1-bromo-3,7-dimethyl-2,6-octadiene.

reactant | linalool | C=CC(O)(C)CCC=C(C)C | C10H18O
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 1-bromo-3,7-dimethyl-2,6-octadiene | BrCC=C(CCC=C(C)C)C | C10H17Br
